US04889869
(b) 2-benzyl-3-dimethylaminosulphonyl-propionic acid ethyl ester
A solution of 359 mg of 2-benzyl-3-chlorosulphonylpropionic acid ethyl ester in 2 ml of methylene chloride is cooled to -10° and 0.464 ml of a 5.6M solution of dimethylamine in ethanol is added thereto. The solution is stirred for 15 minutes at -15°, mixed with 2N HCl and extracted with methylene chloride. The extracts are washed with water, dried with magnesium sulphate and concentrated by evaporation. The residue is chromatographed on silica gel with eluant C. Rf (A)=0.43.

reactant | 2-benzyl-3-chlorosulphonylpropionic acid ethyl ester | 359 mg | C(C)OC(C(CS(=O)(=O)Cl)CC1=CC=CC=C1)=O | C12H15ClO4S
reactant | dimethylamine | CNC | C2H7N
reactant | HCl | 2N | Cl | ClH
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 2-benzyl-3-dimethylaminosulphonyl-propionic acid ethyl ester | C(C)OC(C(CS(=O)(=O)N(C)C)CC1=CC=CC=C1)=O | C14H21NO4S
